US05710130
E) 2-Methoxycarbonyl-(1RS,4aRS,8aRS)-perhydoisoquinoline-1-carboxylic acid ethyl ester
To a solution of 2-methoxycarbonyl-(1RS,4aSR,8aSR)-perhydoisoquinoline-1-carboxylic acid t-butyl ester (81.2 g, 273 mmol) in EtOH (500 mL) was added sodium ethoxide (21% in ethanol) (88.4 mL, 273 mmol) and the reaction mixture was refluxed (24 h). The organic solvent was evaporated in vacuo, ethyl acetate (400 mL) and water (100 mL) was added to the residue. The organic layer was separated, washed twice with water, dried (MgSO4), filtered, and the filtrate was concentrated in vacuo to afford an oil of pure title compound (70 g,0.95%); FAB-MS 270 (MH+); TLC Rf (A) 0.61.

reactant | 2-methoxycarbonyl-(1RS,4aSR,8aSR)-perhydoisoquinoline-1-carboxylic acid t-butyl ester | 273 mmol, 81.2 g | C(C)(C)(C)OC(=O)C1N(CCC2CCCCC12)C(=O)OC | C16H27NO4
reactant | sodium ethoxide | 273 mmol, 88.4 mL | [O-]CC.[Na+]
solvent | EtOH | 500 mL | CCO | C2H6O
product | 2-Methoxycarbonyl-(1RS,4aRS,8aRS)-perhydoisoquinoline-1-carboxylic acid ethyl ester | 70 g, 0.95% | C(C)OC(=O)C1N(CCC2CCCCC12)C(=O)OC | C14H23NO4
